US09328112B2
4-(5-fluoro-2-methoxyphenyl)-1H-pyrrolo[2,3-b]pyridine
A solution of 4-chloro-1H-pyrrolo[2,3-b]pyridine (15 g, 98 mmol), (5-fluoro-2-methoxyphenyl)boronic acid (18.38 g, 108 mmol), potassium phosphate (62.6 g, 295 mmol), and {1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene}chloro {3-phenylallyl}palladium(II) (0.637 g, 0.983 mmol) in tetrahydrofuran (400 mL) and water (133 mL) was purged with nitrogen and heated at 65° C. overnight. The mixture was cooled and poured into water. Ethyl acetate was added, the mixture was stirred for 15 minutes and the organic layer was washed with brine. The combined aqueous extracts were extracted with ethyl acetate and the combined organic layers were dried over sodium sulfate, filtered, and concentrated. The residue was dissolved in dichloromethane and placed on a bed of silica gel equilibrated in 30% ethyl acetate/heptanes that was packed in a coarse Buchner funnel. The material was eluted with 30-40% ethyl acetate/heptanes to provide the title compound. MS (ESI+) m/z 243.2 (M+H)+.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 98 mmol, 15 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | (5-fluoro-2-methoxyphenyl)boronic acid | 108 mmol, 18.38 g | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
reactant | potassium phosphate | 295 mmol, 62.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | water | 133 mL | O | H2O
catalyst | {1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene}chloro {3-phenylallyl}palladium(II) | 0.983 mmol, 0.637 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(N(C=C1)C1=C(C=CC=C1C(C)C)C(C)C)=[Pd-2](CC=CC1=CC=CC=C1)Cl
product | 4-(5-fluoro-2-methoxyphenyl)-1H-pyrrolo[2,3-b]pyridine | FC=1C=CC(=C(C1)C1=C2C(=NC=C1)NC=C2)OC | C14H11FN2O
